US09422292B2
To a solution of 2-chloro-6-methoxy-3-nitropyridine (3 g, 15.91 mmol) in tetrahydrofuran (20 mL) was added methyl-3-amino-2-methylpropanoate (2.05 g, 17.50 mmol) and potassium carbonate (4.40 g, 31.82 mmol). The mixture was stirred at 50° C. for 12 hours. The reaction mixture was concentrated in vacuo and washed with water (20 mL), extracted with acetic ester (20 mL×3). The combined organic phase was dried by anhydrous sodium sulphate, and then filtered. The filtrate was concentrated and purified by column chromatograph silica gel (elute: dichloromethane/Methanol: 100:1→80:1) to give methyl-3-((6-methoxy-3-nitropyridin-2-yl)amino)-2-methylpropanoate (4.2 g, 97%) as a yellow oil.

reactant | 2-chloro-6-methoxy-3-nitropyridine | 15.91 mmol, 3 g | ClC1=NC(=CC=C1[N+](=O)[O-])OC | C6H5ClN2O3
reactant | methyl-3-amino-2-methylpropanoate | 17.50 mmol, 2.05 g | COC(C(CN)C)=O | C5H11NO2
reactant | potassium carbonate | 31.82 mmol, 4.40 g | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | methyl-3-((6-methoxy-3-nitropyridin-2-yl)amino)-2-methylpropanoate | 4.2 g, 97% | COC(C(CNC1=NC(=CC=C1[N+](=O)[O-])OC)C)=O | C11H15N3O5
